US07078419B2
Tin(II)chloride dihydrate (11.9 g, 52.6 mmol) was added to a solution of the above dinitroanisole (2.21 g, 8.76 mmol) in EtOAc (30 mL). The mixture was heated to reflux for 0.25 h upon which the solution became red in color. The solution was cooled to room temperature and poured onto aqueous 2.0 M NaOH. The aqueous phase was extracted with EtOAc and the combined organic layers were washed with saturated aqueous NaHCO3. The organic layers were dried over sodium sulfate, eluted through a plug of silica gel (1% ammonium hydroxide in methylene chloride), and the filtrate was concentrated. The residue was dissolved in diethyl ether and extracted (3×) with 1.0 M HCl. The pH of the combined aqueous layers was adjusted to pH=12 with 2.0M NaOH and extracted with methylene chloride. The combined organic layers were dried over sodium sulfate, filtered and concentrated to provide diaminoanisole (860 mg, 52%) as a red oil.

reactant | Tin(II)chloride dihydrate | 52.6 mmol, 11.9 g | O.O.[Sn](Cl)Cl
reactant | dinitroanisole | 8.76 mmol, 2.21 g | [N+](=O)([O-])C=1C(=C(C=CC1)OC)[N+](=O)[O-] | C7H6N2O5
reactant | NaOH | 2.0 M | [OH-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | diaminoanisole | 860 mg, 52% | NC=1C(=C(C=CC1)OC)N | C7H10N2O
